US06833387B1
Ethyl N-(3,4-dichlorobenzyl)-3-benzylthioindole-2-carboxylate (Ethyl ester of Compound 5)
Powdered sodium hydroxide (3.2 g) was added in a single portion to a vigorously stirred solution of ethyl 3-benzylthioindole-2-carboxylate (2.48 g), 3,4-dichlorobenzyl chloride (1.71 g) and tetra-n-butylammonium hydrogensulphate (0.5 g) in dichloromethane (100 ml). The reaction was stirred for 6 hours then partitioned between 2M HCl and ethyl acetate. Combined organic extracts were dried (MgSO4) and concentrated in vacuo and the residue purified by column chromatography using iso-hexane:5% ethyl acetate as eluent to give the product as a white crystalline solid (2.26 g, 60%); NMR d (CD3SOCD3) 1.32 (t, 3H), 4.00 (s, 2H), 4.25 (q, 2H), 5.60 (s, 2H), 6.78 (d, 1H), 7.04 (m, 2H), 7.10-7.38 (m, 8H), 7.80 (d, 1H); M/z (+) 470 (M+), 426, 424.

reactant | sodium hydroxide | 3.2 g | [OH-].[Na+]
reactant | ethyl 3-benzylthioindole-2-carboxylate | 2.48 g | C(C1=CC=CC=C1)C1=C(NC2=CC=CC=C12)C(=S)OCC | C18H17NOS
reactant | 3,4-dichlorobenzyl chloride | 1.71 g | ClC=1C=C(CCl)C=CC1Cl | C7H5Cl3
catalyst | tetra-n-butylammonium hydrogensulphate | 0.5 g | S(=O)(=O)(O)[O-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | dichloromethane | 100 ml | ClCCl | CH2Cl2
product | Ethyl N-(3,4-dichlorobenzyl)-3-benzylthioindole-2-carboxylate | 2.26 g, 60% | ClC=1C=C(CN2C(=C(C3=CC=CC=C23)CC2=CC=CC=C2)C(=S)OCC)C=CC1Cl | C25H21Cl2NOS
